US06710056B2
Benzyl (4R)-4-t-butoxycarbonylamino-5-(5-cyano-2-iodophenoxy)pentanoate:
8.29 g (24.3 mmol) of benzyl (4R)-4-t-butoxycarbonylamino-5-chloropentanoate, 6.9 g (28.0 mmol) of 3-hydroxy-4-iodobenzonitrile, 6.9 g (50 mmol) of potassium carbonate and 4.15 g (25 mmol) of potassium iodide were stirred together in 80 ml of DMF at 70° C. for 3 days. The solvent was evaporated, and the crude product obtained by an ordinary method with ethyl acetate as the extracting solvent was purified by the silica gel chromatography (ethyl acetate/hexane) to obtain the title compound.

reactant | benzyl (4R)-4-t-butoxycarbonylamino-5-chloropentanoate | 24.3 mmol, 8.29 g | C(C)(C)(C)OC(=O)N[C@H](CCC(=O)OCC1=CC=CC=C1)CCl | C17H24ClNO4
reactant | 3-hydroxy-4-iodobenzonitrile | 28.0 mmol, 6.9 g | OC=1C=C(C#N)C=CC1I | C7H4INO
reactant | potassium carbonate | 50 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 25 mmol, 4.15 g | [I-].[K+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | Benzyl (4R)-4-t-butoxycarbonylamino-5-(5-cyano-2-iodophenoxy)pentanoate | C(C)(C)(C)OC(=O)N[C@H](CCC(=O)OCC1=CC=CC=C1)COC1=C(C=CC(=C1)C#N)I | C24H27IN2O5
